US07750002B2
129 N-{1-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidin-4-yl}-N-methyl-methanesulfonamide
Via N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide, prepared from N-methyl-N-piperidin-4-yl-methanesulfonamide. The amine, N-methyl-N-piperidin-4-yl-methanesulfonamide, was prepared by treatment of 4-methylamino-piperidine-1-carboxylic acid tert-butyl ester with methanesulfonyl chloride, analogous to 128.

reactant | N-[1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidin-4-yl]-N-methyl-methanesulfonamide | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N(S(=O)(=O)C)C)N2CCOCC2 | C18H26ClN5O3S2
reactant | N-methyl-N-piperidin-4-yl-methanesulfonamide | CN(S(=O)(=O)C)C1CCNCC1 | C7H16N2O2S
reactant | 4-methylamino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC | C11H22N2O2
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{1-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidin-4-yl}-N-methyl-methanesulfonamide | N1N=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCC(CC2)N(S(=O)(=O)C)C)N2CCOCC2 | C25H31N7O3S2
